US06281356B1
3-[6-(1H-Imidazol-2-yl)-1-methyl-1H-indol-3-yl]-4-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione was prepared from 1-methyl-6-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-1H-indole and 2-(1-methyl-6-nitro-1H-indol-3-yl)-acetimidic acid isopropyl ester hydrochloride followed by deprotection using aqueous hydrochloric acid in ethanol.

reactant | 1-methyl-6-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-1H-indole | CN1C=CC2=CC=C(C=C12)C=1N(C=CN1)COCC[Si](C)(C)C | C18H25N3OSi
reactant | 2-(1-methyl-6-nitro-1H-indol-3-yl)-acetimidic acid isopropyl ester hydrochloride | Cl.C(C)(C)OC(CC1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=N
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | 3-[6-(1H-Imidazol-2-yl)-1-methyl-1H-indol-3-yl]-4-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione | N1C(=NC=C1)C1=CC=C2C(=CN(C2=C1)C)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)=O | C25H18N6O4
